US07485634B2
Preparation of Ethyl 2-Ethyl-3-piperonyloyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2A by using ethyl 2-ethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and piperonyloyl chloride. 1H-NMR (CDCl3): δ 10.38 (1H, br s), 8.15 (1H, s), 7.52 (1H, d), 7.37 (1H, d), 7.10 (4H, m), 6.88 (1H, d), 6.07 (1H, d), 6.06 (1H, d), 5.34 (1H, m), 4.16-4.33 (2H, m), 3.53 (1H, dd), 3.00 (1H, dd), 1.29-1.45 (2H, m), 1.24 (3H, t), 0.81 (3H, t); MS (ES): 433 (MH+).

reactant | ethyl 2-ethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | C(C)C1CC2=C(NC=3C=CC=CC23)C(=CN1)C(=O)OCC | C17H20N2O2
reactant | piperonyloyl chloride | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
product | Ethyl 2-Ethyl-3-piperonyloyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | C(C)C1CC2=C(NC=3C=CC=CC23)C(=CN1C(C1=CC=2OCOC2C=C1)=O)C(=O)OCC | C25H24N2O5
